US04326881
To 14 g of sodium hydride (50%) were added dropwise 21.3 g of diethyl oxalate, 0.54 ml of ethanol and then 160 ml of ether solution containing 30 g of 2,3-dichloroacetophenone with stirring under cooling with ice. The reaction was carried out under the state free from water. The reaction was continued at room temperature for 40 minutes with stirring after the dropping and further carried out for 45 minutes under reflux. The reaction mixture was poured into ice-cold water containing 17.5 g of acetic acid and after stirring the mixture was filtered. The organic layer was separated, dehydrated and concentrated. The residue was recrystallized from n-hexane to obtain 14.5 g of ethyl 4-(2,3-dichlorophenyl)-2,4-dioxobutyrate (white needles, m.p. 57°-58° C.).

reactant | sodium hydride | 14 g | [H-].[Na+]
reactant | diethyl oxalate | 21.3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethanol | 0.54 ml | C(C)O | C2H6O
reactant | 2,3-dichloroacetophenone | 30 g | CC(=O)C1=C(C(=CC=C1)Cl)Cl | C8H6Cl2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ether | 160 ml | CCOCC | C4H10O
product | ethyl 4-(2,3-dichlorophenyl)-2,4-dioxobutyrate | 14.5 g | ClC1=C(C=CC=C1Cl)C(CC(C(=O)OCC)=O)=O | C12H10Cl2O4
